US05409956
17.6 g (0.10 mol) of (indan-2-yl)acetic acid was dissolved in 150 ml of toluene, to which were added 15.3 ml (0.11 mol) of triethylamine and 33.0 g (0.12 mol) of diphenylphosphorylazide, and stirred at room temperature for 30 minutes. The mixture was added with 16.6 g (0.15 mol) of benzyl alcohol and refluxed for 18 hours. After cooling, the solvent was distilled under reduced pressure, and the residue was added with 500 ml of ethyl acetate, washed with 1N sodium hydroxide, and condensed. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:3), and the crystals collected were recrystallized from a solvent mixture of ethyl acetate and hexane to obtain 24.3 g of 2-(benzyloxycarbonylaminomethyl)indan as colorless needles. Yield: 86%

reactant | (indan-2-yl)acetic acid | 0.10 mol, 17.6 g | C1C(CC2=CC=CC=C12)CC(=O)O | C11H12O2
reactant | triethylamine | 0.11 mol, 15.3 ml | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphorylazide | 0.12 mol, 33.0 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | benzyl alcohol | 0.15 mol, 16.6 g | C(C1=CC=CC=C1)O | C7H8O
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(benzyloxycarbonylaminomethyl)indan | 24.3 g, Yield: 86% | C(C1=CC=CC=C1)OC(=O)NCC1CC2=CC=CC=C2C1 | C18H19NO2
